US07863450B2
A solution of oxalyl chloride (0.38 ml, 4.32 mmol) in dichloromethane (30 ml) is cooled to −78° C. and is treated slowly with dimethylsulfoxide (0.51 ml, 7.2 mmol). After 20 min at −78° C., a solution of (4-methyl-2-{6-[3-(2-methylpyrrolidin-1-yl)propoxy]pyridin-3-yl}-4,5-dihydro-1,3-oxazol-4-yl)methanol ax56 (1.2 g, 80% purity, ca. 3.0 mmol) in dichloromethane (10 ml) is added dropwise over 10 min. After 60 min at −78° C., triethylamine (2.5 ml, 18 mmol) is added and the mixture is allowed to warm to 22° C. Water is then added and after vigorous stirring, the organic layer is separated and the aqueous phase extracted twice with dichloromethane. The combined organic layers are washed with brine, dried over sodium sulfate and concentrated in vacuo to yield 1.2 g of ca. 80% pure 4-methyl-2-{6-[3-(2-methylpyrrolidin-1-yl)propoxy]pyridin-3-yl}-4,5-dihydro-1,3-oxazole-4-carbaldehyde ax57.

reactant | oxalyl chloride | 4.32 mmol, 0.38 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 7.2 mmol, 0.51 ml | CS(=O)C | C2H6OS
reactant | (4-methyl-2-{6-[3-(2-methylpyrrolidin-1-yl)propoxy]pyridin-3-yl}-4,5-dihydro-1,3-oxazol-4-yl)methanol | CC1(N=C(OC1)C=1C=NC(=CC1)OCCCN1C(CCC1)C)CO | C18H27N3O3
reactant | triethylamine | 18 mmol, 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 4-methyl-2-{6-[3-(2-methylpyrrolidin-1-yl)propoxy]pyridin-3-yl}-4,5-dihydro-1,3-oxazole-4-carbaldehyde | 1.2 g, ca. 80% | CC1(N=C(OC1)C=1C=NC(=CC1)OCCCN1C(CCC1)C)C=O | C18H25N3O3
